US05175371
Isovaleraldehyde (2.15 g, 2.68 mL, 25 mmol) in ether (6 mL) was added dropwise to a rapidly stirred solution of B-isoprenyldiisopinacampheylborane, dIpc2BIpn, maintained at -78° C. Stirring was continued for 1 h, when the 11B NMR spectrum of an aliquot showed a peak at δ 52 ppm corresponding to a borinate indicating completion of the reaction. The reaction mixture was warmed to 0.C and acetaldehyde (2.1 mL, 37.5 mmol) was added when one equiv of α-pinene was eliminated. 11B NMR showed a peak at δ 32 ppm corresponding to a boronate. THF was substituted with EE and 1.1 equiv. of diethanolamine (2.6 mL, 27.5 mmol) was added and stirred for 2 h. The precipitated boron components were filtered and the filtrate was concentrated and distilled (92°-94° C./19 mm Hg) to yield 2.3 g (60%) of (+)-ipsenol. [α]D =+17.3. (c 1, MeOH) which corresponds to 93.7% ee. The spectral properties were identical to the racemic mixture of Example 6.

reactant | Isovaleraldehyde | 25 mmol, 2.68 mL, 2.15 g | C(CC(C)C)=O | C5H10O
reactant | borinate | B[O-]
reactant | acetaldehyde | 37.5 mmol, 2.1 mL | C(C)=O | C2H4O
reactant | α-pinene | one equiv | CC1=CCC2CC1C2(C)C | C10H16
reactant | boronate | B([O-])[O-]
reactant | diethanolamine | 27.5 mmol, 2.6 mL, 1.1 equiv. | N(CCO)CCO | C4H11NO2
solvent | ether | 6 mL | CCOCC | C4H10O
solvent | THF | C1CCOC1 | C4H8O
product | (+)-ipsenol | 2.3 g, 60% | CC(C)C[C@@H](CC(=C)C=C)O | C10H18O
